* CMOS inverter subcircuit built from the 22nm PTM-HP BSIM4 model card
.include "../22nm_HP.pm"

.subckt INV in out vdd vss params: K=2 WN=44n LNCH=22n LPCH=22n
.param WP = {K*WN}
MP out in vdd vdd pmos L={LPCH} W={WP}
MN out in vss vss nmos L={LNCH} W={WN}
.ends INV
