* CMOS inverter subcircuit built from the 22nm PTM-HP BSIM4 model card
.include "../22nm_HP.pm"

.subckt INV in out vdd vss params: K=2 WN=44n LNCH=22n LPCH=22n
.param WP = 'K*WN'
MP out in vdd vdd pmos L=LPCH W=WP
MN out in vss vss nmos L=LNCH W=WN
.ends INV
